US07473790B2
Step 1: 5-Bromo-3,3-dimethyl-2,3-dihydro-benzofuran-2-ol:
To a solution of 5-Bromo-3,3-dimethyl-3H-benzofuran-2-one (1.199 g, 5.0 mmol) (described in Step 2 of Example A(68), dissolved in anhydrous CH2Cl2 (20 ml), and cooled to −78° C., was added DIBAL (3.67 mL, 5.5 mmol, 1.5M in Toluene). The reaction was stirred for 1 h at this temperature then quenched with 1N HCl until acidic. The resulting mixture was extracted with ether, which was washed with brine, dried with MgSO4, concentrated and purified by silica gel chromatography (gradient elution 5-15% Ethylacetate/Hexanes). Yield 0.95 g, 79%.

reactant | 5-Bromo-3,3-dimethyl-3H-benzofuran-2-one | 5.0 mmol, 1.199 g | BrC=1C=CC2=C(C(C(O2)=O)(C)C)C1 | C10H9BrO2
reactant | DIBAL | 5.5 mmol, 1.5M, 3.67 mL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-3,3-dimethyl-2,3-dihydro-benzofuran-2-ol | BrC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C10H11BrO2
